US07585885B2
2-Chloro-6-propanesulfonyl-isonicotinic acid methyl ester
Add a suspension of potassium peroxymonosulfate (35.6 g, 57.7 mmol) in water (80 mL) to a cooled solution of 2-chloro-6-propylsulfanyl-isonicotinic acid methyl ester (4.71 g, 19.2 mmol) in methanol (40 mL) and THF (40 mL). Stir the mixture at room temperature for 3 days. Dilute the mixture with water and extract with dichloromethane (3×100 mL). Wash the combined extracts with water, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 20:80 ethyl acetate:hexanes) to give the title product (2.75 g, 52%).

reactant | potassium peroxymonosulfate | 57.7 mmol, 35.6 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | 2-chloro-6-propylsulfanyl-isonicotinic acid methyl ester | 19.2 mmol, 4.71 g | COC(C1=CC(=NC(=C1)SCCC)Cl)=O | C10H12ClNO2S
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | 2-Chloro-6-propanesulfonyl-isonicotinic acid methyl ester | 2.75 g, 52% | COC(C1=CC(=NC(=C1)S(=O)(=O)CCC)Cl)=O | C10H12ClNO4S
